US04436753
To a solution (30 ml) of 6-(18-hydroxy-1-oxooctadecyl)-2,3-dimethoxy-5-methylphenol (1.4 g) in acetic acid are added 5% palladium-on-carbon (50% hydrate; 0.5 g) and 70% perchloric acid (0.05 ml), and catalytic reduction is carried out at ambient temperature under atmospheric pressure. After completion of the absorption of hydrogen, the catalyst is filtered off and the filtrate is concentrated under reduced pressure to give a colorless oil. The oil is dissolved in ether, the ether layer is washed with a 5% aqueous sodium bicarbonate solution and dried over anhydrous sodium sulfate, and the solvent is distilled off to give crude crystals. Recrystallization from hexane gives colorless needles of 6-(18-acetoxyoctadecyl)-2,3-dimethoxy-5-methylphenol (1.4 g). m.p. 53° C.

reactant | 6-(18-hydroxy-1-oxooctadecyl)-2,3-dimethoxy-5-methylphenol | 30 ml, 1.4 g | OCCCCCCCCCCCCCCCCCC(=O)C1=C(C=C(C(=C1O)OC)OC)C | C27H46O5
reactant | perchloric acid | 0.05 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | 6-(18-acetoxyoctadecyl)-2,3-dimethoxy-5-methylphenol | 1.4 g | C(C)(=O)OCCCCCCCCCCCCCCCCCCC1=C(C=C(C(=C1O)OC)OC)C | C29H50O5
